US04851519
0.84 ml of a 1M sodium hydroxide solution was added to a solution of 256 mg of 5'-amino-5-bromo-2',5'-dideoxycytidine in 3.3 ml of water. A solution of (2-bromophenyl)acetyl chloride (prepared from 185 mg of the acid) in 5 ml of dichloromethane was added, the mixture was shaken vigorously for 10 minutes and then filtered. The solid was recrystallized from 30 ml of ethanol to give 44 mg of 5-bromo-5'-[2-(2-bromophenyl)acetamido]-2',5'-dideoxycytidine in the form of a white solid of melting point 164°-167° C.

reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | 5'-amino-5-bromo-2',5'-dideoxycytidine | 256 mg | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(N)C(=C1)Br)O | C9H13BrN4O3
reactant | (2-bromophenyl)acetyl chloride | BrC1=C(C=CC=C1)CC(=O)Cl | C8H6BrClO
solvent | water | 3.3 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-bromo-5'-[2-(2-bromophenyl)acetamido]-2',5'-dideoxycytidine | 44 mg | BrC=1C(=NC(N([C@H]2C[C@H](O)[C@@H](CNC(CC3=C(C=CC=C3)Br)=O)O2)C1)=O)N | C17H18Br2N4O4
